US04528194
To 90 ml of an ethyl acetate solution containing 7.56 g (30 mmol) of 1-diphenylmethylpiperazine and 3.33 g (33 mmol) of triethylamine was added 9.15 g (30 mmol) of p-benzyloxy-α-bromoacetophenone. The resultant mixture was stirred at room temperature for 45 minutes. After addition of 100 ml of ice water, the thus obtained mixture was stirred for about 10 minutes. Precipitated crystals were collected by filtration and then washed successively with water, ethanol and ethyl acetate and thereafter dried to give 12.5 g of 1-(4-benzyloxyphenyl)-2-(4-diphenylmethylpiperazinyl)ethanone (yield: 87.4%).

reactant | 1-diphenylmethylpiperazine | 30 mmol, 7.56 g | C1(=CC=CC=C1)C(N1CCNCC1)C1=CC=CC=C1 | C17H20N2
reactant | triethylamine | 33 mmol, 3.33 g | C(C)N(CC)CC | C6H15N
reactant | p-benzyloxy-α-bromoacetophenone | 30 mmol, 9.15 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(CBr)=O | C15H13BrO2
solvent | ethyl acetate | 90 ml | C(C)(=O)OCC | C4H8O2
product | 1-(4-benzyloxyphenyl)-2-(4-diphenylmethylpiperazinyl)ethanone | 12.5 g, yield: 87.4% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(CN1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C32H32N2O2
